US06069156
To a solution or methyl 2-acetamido-3-hydroxybenzoate (1.2 g) in a mixture of pyridine (1.4 ml) and dichloromethane (2 ml) was added slowly trifluoromethanesulfonic anhydride (1.1 ml) at 0° C. When addition was completed, the mixture was stirred at 20° C. for 20 minutes. The resulting mixture was poured into ice and extracted with ethyl acetate. The organic phase was washed with 1N hydrochloric acid, aqueous sodium bicarbonate and brine, dried over sodium sulfate and evaporated in vacuo. The residue was triturated with a mixture of dichloromethane and hexane to give methyl 2-acetamido-3-trifluoromethanesulfonyloxybenzoate (1.78 g) as solid.

reactant | methyl 2-acetamido-3-hydroxybenzoate | 1.2 g | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1O | C10H11NO4
reactant | trifluoromethanesulfonic anhydride | 1.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | methyl 2-acetamido-3-trifluoromethanesulfonyloxybenzoate | 1.78 g | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1OS(=O)(=O)C(F)(F)F | C11H10F3NO6S
